### PR TITLE
[Merged by Bors] - feat: `erw?`, a tool to explain why `erw` is necessary

### PR DESCRIPTION
**Pull request by kim-em**
[Zulip](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/feat.3A.20erw.3F.2C.20a.20tool.20to.20explain.20why.20erw.20is.20necessary.20.2321643)

Example usage: in 
```lean
def subalgebraMap (e : A ≃ₐ[R] B) (S : Subalgebra R A) : S ≃ₐ[R] S.map (e : A →ₐ[R] B) :=
  { e.toRingEquiv.subsemiringMap S.toSubsemiring with
    commutes' := fun r => by
      ext; dsimp only
      erw [RingEquiv.subsemiringMap_apply_coe]
      exact e.commutes _ }
```     
replace `erw` with `erw?`. You'll get the informational message:
```
(e.toRingEquiv.subsemiringMap S.toSubsemiring).toFun
  and
⇑(e.toRingEquiv.subsemiringMap S.toSubsemiring)
  are defeq at default transparency, but not at reducible transparency.
```
and this then suggests to a sufficiently expert reader which simp lemmas are missing! (In this particular case, I'd first replace the `dsimp only` with `dsimp`, and then run `erw?`, which tell you something more useful.)

Note that `erw?` only accepts a single lemma, so any `erw [X1, X2, X3]` need to be broken up first (this is probably good practice anyway, to record which steps really need the `erw`).

### CODE REVIEW

File: Mathlib/Tactic/ErwQuestion.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
+  defValue := false
+  descr := "`erw?` logs more information as it attempts to identify subexpressions \
+    which would block the use of `rw` instead."
+}
+
+/--
+`erw? [r]` calls `erw [r]` (note that only a single step is allowed),
+and then attempts to identify any subexpression which would block the use of `rw` instead.
+It does so by identifying subexpressions which are defeq, but not at reducible transparency.
+ -/
```
Comment (adomani) [inline Mathlib/Tactic/ErwQuestion.lean:35]:
```suggestion
-/
```

**Review by adomani — APPROVED** [review]
This looks good to me!

Would it make sense to have a test file for this, showing the various levels of `defeq` transparency?

**Comment by kim-em** [comment]
I added an extremely primitive test (which indeed revealed problems in option handling!)

**Comment by adomani** [comment]
Thank you very much!

I just have one more suggestion.  How about accumulating the `verbose` messages and reporting them all together as a single message, using `cross/check-emoji`s to highlight non-reducible/reducible transparencies?

Here is what I have in mind:
```lean
/--
Check if two expressions are different at reducible transparency.
Attempt to log an info message for the first subexpressions which are different
(but agree at default transparency).

Also returns an array of messages for the `verbose` report.
-/
def logDiffs (tk : Syntax) (e₁ e₂ : Expr) : MetaM (Bool × Array MessageData) := do
  withOptions (fun opts => opts.setBool `pp.analyze true) do
  let verbose := (← getOptions).get `tactic.erw?.verbose (defVal := false)
  let mut verbMsgs := #[]
  if ← withReducible (isDefEq e₁ e₂) then
    if verbose then
      verbMsgs := verbMsgs.push
        m!"{e₁}\n  and\n{e₂}\n{checkEmoji} are defeq at reducible transparency."
    -- They agree at reducible transparency, we're done.
    return (false, verbMsgs)
  else
    if verbose then
      verbMsgs := verbMsgs.push
        m!"{e₁}\n  and\n{e₂}\n{crossEmoji} are not defeq at reducible transparency."
    if ← isDefEq e₁ e₂ then
      match e₁, e₂ with
      | Expr.app f₁ a₁, Expr.app f₂ a₂ =>
        let (newDiff, newMsgs) ← logDiffs tk a₁ a₂
        verbMsgs := verbMsgs ++ newMsgs
        if newDiff then
          return (true, verbMsgs)
        else
        let (newDiff, newMsgs) ← logDiffs tk f₁ f₂
        verbMsgs := verbMsgs ++ newMsgs
        if newDiff then
          return (true, verbMsgs)
        else
          logInfoAt tk m!"{e₁}\n  and\n{e₂}\n{crossEmoji} \
            are defeq at default transparency, but not at reducible transparency."
          return (true, verbMsgs)
      | Expr.const _ _, Expr.const _ _ =>
        logInfoAt tk m!"{e₁}\n  and\n{e₂}\n{crossEmoji} \
            are defeq at default transparency, but not at reducible transparency."
        return (true, verbMsgs)
      | _, _ =>
        if verbose then
          verbMsgs := verbMsgs.push
            m!"{e₁}\n  and\n{e₂}\n{crossEmoji} are not both applications."
        return (false, verbMsgs)
    else
      if verbose then
        verbMsgs := verbMsgs.push
          m!"{e₁}\n  and\n{e₂}\n{crossEmoji} are not defeq at default transparency."
      return (false, verbMsgs)

elab_rules : tactic
  | `(tactic| erw?%$tk [$r]) => withMainContext do
    let verbose := (← getOptions).get `tactic.erw?.verbose (defVal := false)
    let g ← getMainGoal
    evalTactic (← `(tactic| erw [$r]))
    let e := (← instantiateMVars (mkMVar g)).headBeta
    match e.getAppFnArgs with
    | (``Eq.mpr, #[_, _, e, _]) =>
      match e.getAppFnArgs with
      | (``id, #[ty, e]) =>
        match ty.eq? with
        | some (_, tgt, _) =>
          if verbose then logInfoAt tk m!"Expression appearing in target: {tgt}"
          match (← inferType e).eq? with
          | some (_, inferred, _) =>
            let (_, msgs) ← logDiffs tk tgt inferred
            if verbose then
              logInfoAt tk <| .joinSep (m!"Expression from `erw`: {inferred}" :: msgs.toList) "\n\n"
          | _ => logErrorAt tk "Unexpected term produced by `erw`, \
                  inferred type is not an equality."
        | _ => logErrorAt tk "Unexpected term produced by `erw`, type hint is not an equality."
      | _ => logErrorAt tk "Unexpected term produced by `erw`, not of the form: `Eq.mpr (id _) _`."
    | _ => logErrorAt tk "Unexpected term produced by `erw`, head is not an `Eq.mpr`."
```

and then updating the tests, possibly adding one that also tracks the `verbose` option.

**Comment by adomani** [comment]
I'll leave it up to you to make the choice for message reporting!

Since this is mostly a "diagnostic" tool, I think that it is good to make it available quickly and debug as issues get reported!  Thanks!

bors d+

**Comment by kim-em** [comment]
Thanks, collecting the verbose messages is good. The cost is that the relatively short implementation code is now mostly obscured by the tracing code... Not sure I'm happy about that!

**Comment by kim-em** [comment]
@adomani, I pushed some changes to your suggestion using a state transformer to collect the messages, and it's less intrusive now.

**Comment by kim-em** [comment]
bors merge

File: Mathlib/Tactic/ErwQuestion.lean [hunk 2]
```diff
@@ -0,0 +1,104 @@
...
+            let (_, msgs) ← (logDiffs tk tgt inferred).run #[]
+            if verbose then
+              logInfoAt tk <| .joinSep
+                (m!"Expression appearing in target: {tgt}" ::
+                  m!"Expression from `erw`: {inferred}" :: msgs.toList.map (· ())) "\n\n"
+          | _ => logErrorAt tk "Unexpected term produced by `erw`, \
+                  inferred type is not an equality."
+        | _ => logErrorAt tk "Unexpected term produced by `erw`, type hint is not an equality."
+      | _ => logErrorAt tk "Unexpected term produced by `erw`, not of the form: `Eq.mpr (id _) _`."
+    | _ => logErrorAt tk "Unexpected term produced by `erw`, head is not an `Eq.mpr`."
```
Comment (eric-wieser) [inline Mathlib/Tactic/ErwQuestion.lean:102]: This nesting would be lot clearer with `let $patt := _ | logErrorAt tk _`

Comment (kim-em) [reply Mathlib/Tactic/ErwQuestion.lean]: Indeed, that is *way* better.

**Comment by kim-em** [comment]
bors merge

File: Mathlib/Tactic/ErwQuestion.lean [hunk 3]
```diff
@@ -0,0 +1,99 @@
...
+    let (``id, #[ty, e]) := e.getAppFnArgs |
+      logErrorAt tk "Unexpected term produced by `erw`, not of the form: `Eq.mpr (id _) _`."
+    let some (_, tgt, _) := ty.eq? |
+      logErrorAt tk "Unexpected term produced by `erw`, type hint is not an equality."
+    let some (_, inferred, _) := (← inferType e).eq? |
+      logErrorAt tk "Unexpected term produced by `erw`, inferred type is not an equality."
+    let (_, msgs) ← (logDiffs tk tgt inferred).run #[]
+    if verbose then
+      logInfoAt tk <| .joinSep
+        (m!"Expression appearing in target: {tgt}" ::
```
Comment (eric-wieser) [inline Mathlib/Tactic/ErwQuestion.lean:96]:
```suggestion
        (m!"Expression appearing in target:{indentD tgt}" ::
```

**Comment by adomani** [comment]
@eric-wieser, let me know if you want to take a final look, otherwise, I am happy to merge once the PR passes CI.

File: Mathlib/Tactic/ErwQuestion.lean [hunk 4]
```diff
@@ -0,0 +1,104 @@
...
+def logDiffs (tk : Syntax) (e₁ e₂ : Expr) : StateT (Array (Unit → MessageData)) MetaM Bool := do
+  withOptions (fun opts => opts.setBool `pp.analyze true) do
+  if ← withReducible (isDefEq e₁ e₂) then
+    verbose m!"{checkEmoji} at reducible transparency,\
+      {indentD e₁}\nand{indentD e₂}\nare defeq."
+    -- They agree at reducible transparency, we're done.
+    return false
+  else
+    verbose m!"{crossEmoji} at reducible transparency,\
+      {indentD e₁}\nand\n{indentD e₂}\nare not defeq."
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Tactic/ErwQuestion.lean]: Thanks!  (Small change: I think that it was the `\` between `and` and `{indentD` e₂}`.)

File: MathlibTest/ErwQuestion.lean [hunk 5]
```diff
@@ -0,0 +1,78 @@
...
+  38
+and
+  38
+are defeq.
+
+❌️ at reducible transparency,
+  Eq (f b)
+and
+  Eq (f a)
+are not defeq.
```
Comment (eric-wieser) [inline MathlibTest/ErwQuestion.lean:67]: Optional: could consider the shorter `≟` notation for defeq.

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/Tactic/ErwQuestion.lean [hunk 6]
```diff
@@ -0,0 +1,104 @@
...
+    evalTactic (← `(tactic| erw [$r]))
+    let e := (← instantiateMVars (mkMVar g)).headBeta
+    let (``Eq.mpr, #[_, _, e, _]) := e.getAppFnArgs |
+      logErrorAt tk "Unexpected term produced by `erw`, head is not an `Eq.mpr`."
+    let (``id, #[ty, e]) := e.getAppFnArgs |
+      logErrorAt tk "Unexpected term produced by `erw`, not of the form: `Eq.mpr (id _) _`."
+    let some (_, tgt, _) := ty.eq? |
+      logErrorAt tk "Unexpected term produced by `erw`, type hint is not an equality."
+    let some (_, inferred, _) := (← inferType e).eq? |
+      logErrorAt tk "Unexpected term produced by `erw`, inferred type is not an equality."
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Tactic/ErwQuestion.lean]: I like this: I extracted `extractRewriteEq`.

File: MathlibTest/ErwQuestion.lean (hunk 5 above)
Comment (adomani) [reply MathlibTest/ErwQuestion.lean:67]: I'm going to leave this as is: I think that the message may need a reformulation, but I am not really sure what to suggest.

File: Mathlib/Tactic/ErwQuestion.lean [hunk 7]
```diff
@@ -79,6 +79,20 @@ def logDiffs (tk : Syntax) (e₁ e₂ : Expr) : StateT (Array (Unit → MessageD
         verbose
           m!"{crossEmoji}{indentD e₁}\nand{indentD e₂}\nare not defeq at default transparency."
       return false
+/--
+Checks that the input `Expr` represents an equality and returns the types of the two sides,
```
Comment (eric-wieser) [inline Mathlib/Tactic/ErwQuestion.lean:83]:
```suggestion
Checks that the input `Expr` represents a proof produced by `(e)rw` and returns the type of the LHS of the equality being written, and the type of the LHS of the proof  of that equality. These will be defeq, but not necessarily reducibly so.
```

File: Mathlib/Tactic/ErwQuestion.lean [hunk 8]
```diff
@@ -79,6 +79,20 @@ def logDiffs (tk : Syntax) (e₁ e₂ : Expr) : StateT (Array (Unit → MessageD
         verbose
           m!"{crossEmoji}{indentD e₁}\nand{indentD e₂}\nare not defeq at default transparency."
       return false
+/--
```
Comment (eric-wieser) [inline Mathlib/Tactic/ErwQuestion.lean:82]:
```suggestion

/--
```

**Comment by adomani** [comment]
bors merge
